US07598244B2
Synthesis of 1-(4-methoxy-1-methylbutyl)-3-[7-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl]urea (Production Example of Reaction Formula C)
4-nitrophenyl chloroformate (644 mg) was dissolved in DMI (26 ml). Thereafter, while stirring under cooling on ice, 7-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine (the compound obtained in Reference Example 8; 514 mg) and pyridine (347 μl) were added to the solution. The obtained mixture was stirred for 40 minutes under cooling on ice. Thereafter, 4-methoxy-1-methylpropylamine (500 mg) was added thereto, and the obtained mixture was stirred for 1 hour under cooling on ice. Subsequently, the reaction solution was stirred at a room temperature overnight. Thereafter, an ice block and an aqueous 3 M sodium hydroxide solution were added to the reaction solution, followed by extraction with methylene chloride. The organic layer was washed with a saturated saline solution and then dried over anhydrous sodium sulfate. The solvent was then distilled off under a reduced pressure. The obtained residual solution was further subjected to vacuum distillation to eliminate DMI. Thereafter, the distillation residue was dissolved in ethyl acetate (100 ml), and the organic layer was washed with 1 M hydrochloric acid (30 ml×4) and then dried over anhydrous sodium sulfate. The solvent was distilled off under a reduced pressure. The obtained residue was purified by silica gel column chromatography (eluted with 0% to 20% methanol-containing ethyl acetate) to obtain the captioned compound (242 mg).

reactant | 4-nitrophenyl chloroformate | 644 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 7-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine | COC1=CC=C(C=C1)C1=CC=NC=2N1N=C(N2)N | C12H11N5O
reactant | pyridine | 347 μl | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | 3 M | [OH-].[Na+]
reactant | DMI | 26 ml | CN1CCN(C1=O)C | C5H10N2O
product | 1-(4-methoxy-1-methylbutyl)-3-[7-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl]urea | 242 mg | COCCCC(C)NC(=O)NC1=NN2C(N=CC=C2C2=CC=C(C=C2)OC)=N1 | C19H24N6O3
